US04687777
A mixture of 2-imino-5-{4-[2-(5-methyl-2-pyridyl)ethoxy]benzyl}-4-thiazolidinone (8.0 g), 2N HCl (80 ml) and ethanol (80 ml) was refluxed for 16 hours. The reaction solution was neutralized with a saturated aqueous solution of sodium hydrogencarbonate to yield crystals. The crystals were collected by filtration and recrystallized from ethanol to give 5-{4-[2-(5-methyl-2pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione as colorless prisms (7.0 g, 87.5%), m.p. 192°-193° C.

reactant | 2-imino-5-{4-[2-(5-methyl-2-pyridyl)ethoxy]benzyl}-4-thiazolidinone | 8.0 g | N=C1SC(C(N1)=O)CC1=CC=C(C=C1)OCCC1=NC=C(C=C1)C | C18H19N3O2S
reactant | HCl | 2N, 80 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-{4-[2-(5-methyl-2pyridyl)ethoxy]benzyl}-2,4-thiazolidinedione | 7.0 g, 87.5% | CC=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H18N2O3S
